US08124606B2
Compound 144: (S)-3-((4-(4-(2-methoxypyridin-4-yl)phenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one:
(S)-3-((4-(4-bromophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (0.04 mmol), 2-methoxypyridin-4-ylboronic acid (0.060 mmol), PdCl2(dppf)-CH2Cl2 Adduct (3.27 mg, 4.00 μmol), sodium bicarbonate (0.500 ml, 0.500 mmol), dioxane (Volume: 1 ml) and a stir bar were sealed in a 5 mL microwave vial. The vial was heated to 135° C. for 30 minutes. The aqueous layer was removed from the vial and reaction mixture the filtered into a 1.8 mL HPLC submission vial. The reaction mixture was purified by LCMS to give a yellow solid: [M+H] calc'd for C28H32N6O2, 485; found, 485.

reactant | (S)-3-((4-(4-bromophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.04 mmol | BrC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C22H26BrN5O
reactant | 2-methoxypyridin-4-ylboronic acid | 0.060 mmol | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
reactant | sodium bicarbonate | 0.500 mmol, 0.500 ml | C([O-])(O)=O.[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 4.00 μmol, 3.27 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-3-((4-(4-(2-methoxypyridin-4-yl)phenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | COC1=NC=CC(=C1)C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C28H32N6O2
